US05965741
To a suspension of LiAlH4 (2.5 g, 66 mmol) LiAlH4 in freshly distilled THF (8 ml) at 0° C. under argon, was added dropwise with stirring a solution of 5-methylsalicylic acid (5 g, 33 mmol) in freshly distilled THF (80 ml). Addition was complete in 0.75 hours and the reaction stirred at ambient temperature overnight. Careful addition of water (5 ml) was followed by the addition of ice (10 ml) and concentrated HCl (1 ml). The solvent was decanted and the residue treated with ethyl ether and ice water. The pH of the mixture was adjusted to pH 1 with concentrated HCl and the organic layer combined with the decanted solvent, washed with brine, dried (MgSO4) and evaporated. The residue was subjected to chromatography (eluant: ethyl ether/hexane) to give 2-hydroxymethyl-4-methylphenol as a white solid (3.1 g, 68%).

reactant | LiAlH4 | 66 mmol, 2.5 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | 8 ml | C1CCOC1 | C4H8O
reactant | 5-methylsalicylic acid | 33 mmol, 5 g | CC1=CC=C(C(C(=O)O)=C1)O | C8H8O3
reactant | THF | 80 ml | C1CCOC1 | C4H8O
reactant | HCl | 1 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 2-hydroxymethyl-4-methylphenol | 3.1 g, 68% | OCC1=C(C=CC(=C1)C)O | C8H10O2
